US08193199B2
N6-((8-Methyl-2-o-tolylquinolin-3-yl)methyl)-9H-purine-2,6-diamine
A mixture of (8-methyl-2-o-tolylquinolin-3-yl)methanamine (40 mg, 0.15 mmol), 2-amino-6-chloropurine (52 mg, 0.30 mmol), and triethylamine (42 μL, 0.30 mmol) in i-PrOH (0.8 mL) was heated in a microwave reactor at 150° C. four times for 20 min. The mixture was partitioned between saturated aqueous NaHCO3 (15 mL) and EtOAc (15 mL), the layers were separated, and the aqueous layer was extracted with EtOAc (2×15 mL). The combined organic layers were dried (MgSO4) and concentrated under reduced pressure. The resulting yellow oil was dissolved in CH2Cl2, evaporated onto silica gel, and purified by flash chromatography (Biotage® Si 25+M) eluting with MeOH/CH2Cl2 (5% to 10%) to provide a white solid. The compound was further purified by reversed-phase HPLC (Gilson) eluting with H2O/MeCN/TFA to provide a white solid [PI3Kδ IC50=82 nM]. MS (ESI+) m/z=396.2 (M+1).

reactant | (8-methyl-2-o-tolylquinolin-3-yl)methanamine | 0.15 mmol, 40 mg | CC=1C=CC=C2C=C(C(=NC12)C1=C(C=CC=C1)C)CN | C18H18N2
reactant | 2-amino-6-chloropurine | 0.30 mmol, 52 mg | NC1=NC(=C2NC=NC2=N1)Cl | C5H4ClN5
reactant | triethylamine | 0.30 mmol, 42 μL | C(C)N(CC)CC | C6H15N
solvent | i-PrOH | 0.8 mL | CC(C)O | C3H8O
product | N6-((8-Methyl-2-o-tolylquinolin-3-yl)methyl)-9H-purine-2,6-diamine | CC=1C=CC=C2C=C(C(=NC12)C1=C(C=CC=C1)C)CNC1=C2N=CNC2=NC(=N1)N | C23H21N7
